US04251655
A solution of 20.0 g (0.08 mole) of 4-diphenylmethylpiperidine, 14.2 g (0.16 mole) of N,N-dimethylthioformamide and 50 ml of toluene was refluxed for 12 hours, cooled, and washed with water. The organic layer was separated, dried and stripped to an oil which was treated with diethyl ether to give a solid. Recrystallization of this material afforded a white crystalline solid, 4-(diphenylmethyl)-1-piperidinecarbothioaldehyde, m.p. 152°-154° C.

reactant | 4-diphenylmethylpiperidine | 0.08 mole, 20.0 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | N,N-dimethylthioformamide | 0.16 mole, 14.2 g | CN(C=S)C | C3H7NS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(diphenylmethyl)-1-piperidinecarbothioaldehyde | C1(=CC=CC=C1)C(C1CCN(CC1)C=S)C1=CC=CC=C1 | C19H21NS
